US05075313
A solution of 3-isopropoxynitrobenzene (8.5 g, 50 mmol) and PtO2 (0.3 g) in 200 ml of ethanol was shaken under 40 psi hydrogen at room temperature for 1.5 hours. The mixture was filtered through Celite, and the filtrate was concentrated in vacuo to provide 7.08 g of light oil (3-isopropoxyaniline). The oil was added to isatoic anhydride (7.35 g, 45 mmol) along with 15 ml of ethyl acetate. The mixture was heated in a 90° oil bath under nitrogen for two hours. The product crystallized from the reaction mixture upon the addition of hexanes. Filtration of the reaction mixture provided 10.19 g (83%) of 2-amino-N-(3-isopropoxyphenyl)benzamide as a white solid.

reactant | 3-isopropoxynitrobenzene | 50 mmol, 8.5 g | C(C)(C)OC=1C=C(C=CC1)[N+](=O)[O-] | C9H11NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | PtO2 | 0.3 g | O=[Pt]=O
product | 3-isopropoxyaniline | C(C)(C)OC=1C=C(N)C=CC1 | C9H13NO
